### ISSUE TITLE
simp contextual example in Tactics chapter

### ISSUE THREAD

**Issue by MrQubo** [leanprover/theorem_proving_in_lean4#150]
The example for using `contextual`:
```lean
example : if x = 0 then y + x = y else x ≠ 0 := by
  simp (config := { contextual := true })
```
seems to not be correct about the explanation. `simp` by itself can finish the goal as well:
```lean
example : if x = 0 then y + x = y else x ≠ 0 := by
  simp
```

Here's an example that cannot be solved by `simp` alone:
```lean
example : x = 0 → y = x → y = 0 := by
  simp (config := {contextual := true})
```

**Comment by MrQubo** [comment]
Though, the example doesn't work without `contextual := true` in some older versions of lean4.
